US04489003
A mixture of 10.35 g (0.03 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1 carboxylate, 50 g of cyclooctanol and 2 g of tetraethyl orthotitanate is heated to 130° for 8 hours, a small amount of solvent being distilled off twice in vacuo. The mixture is subsequently evaporated in vacuo, the residue is taken up in chloroform and the solution is poured into about 20 percent hydrochloric acid. The mixture is stirred for 20 minutes, the chloroform phase is separated, washed successively with 1N hydrochloric acid and saturated sodium bicarbonate solution, dried over magnesium sulphate and evaporated. By chromatography on a silica gel column while eluting with ethyl acetate and subsequent crystallization from ethyl acetate/hexane there is obtained cyclooctyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 183°-184°.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1 carboxylate | 0.03 mmol, 10.35 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | cyclooctanol | 50 g | C1(CCCCCCC1)O | C8H16O
catalyst | tetraethyl orthotitanate | 2 g | CCO.CCO.CCO.CCO.[Ti]
product | cyclooctyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3CCCCCCC3)CCC1)=O | C23H26ClN3O3
